US04423213
To a solution of benzhydryl 7-(4-bromo-3,3-diethoxy-2-methoxyiminobutyramido)-3-vinyl-3-cephem-4-carboxylate (syn isomer) (6.5 g) in methylene chloride (60 ml) was added conc. hydrochloric acid (6 ml) at 3° to 5° C., and the mixture was stirred from under ice-cooling to at ambient temperature for 8 hours. After methylene chloride (100 ml) was added to the reaction mixture, it was washed with water and then dried over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was washed with diethyl ether to obtain benzhydryl 7-(4-bromo-2-methoxyiminoacetoacetamido)-3-vinyl-3-cephem-4-carboxylate (syn isomer) (3.5 g).

reactant | benzhydryl 7-(4-bromo-3,3-diethoxy-2-methoxyiminobutyramido)-3-vinyl-3-cephem-4-carboxylate | 6.5 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC)(OCC)OCC | C31H34BrN3O7S
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-(4-bromo-2-methoxyiminoacetoacetamido)-3-vinyl-3-cephem-4-carboxylate | 3.5 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC)=O | C27H24BrN3O6S
